US05736539
4-Benzyl-2(S)-n-butyl-1-(2,3-dimethylbenzoyl)piperazine
Trifluoroacetic acid (4.5 mL) was added to a solution of 4-benzyl-1-tert-butoxycarbonyl-2(S)-n-butylpiperazine (0.507 g, 1.52 mmol) in methylene chloride (9 mL), and the reaction stirred for 2 h at 20° C. The volatiles were removed in vacuo and the residue partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic phase was washed with saturated sodium chloride solution and dried over magnesium sulfate. The crude product was dissolved in dry, degassed dimethylformamide (18 mL) and 2,3-dimethylbenzoic acid (0.229 g, 1.53 mmol), HOBT (0.222 g, 1.45 mmol), and EDC.HCl (0.307 g, 1.60 mmol) added. The pH was adjusted to 8 by the addition of triethylamine. The reaction was stirred at 20° C. overnight, and the dimethylformamide removed in vacuo. The residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic phase was washed with saturated sodium chloride solution and dried over magnesium sulfate. The solvent was removed in vacuo to give the title compound.

reactant | Trifluoroacetic acid | 4.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-benzyl-1-tert-butoxycarbonyl-2(S)-n-butylpiperazine | 1.52 mmol, 0.507 g | C(C1=CC=CC=C1)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CCCC | C20H32N2O2
reactant | 2,3-dimethylbenzoic acid | 1.53 mmol, 0.229 g | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
reactant | HOBT | 1.45 mmol, 0.222 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 1.60 mmol, 0.307 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 9 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
product | 4-Benzyl-2(S)-n-butyl-1-(2,3-dimethylbenzoyl)piperazine | C(C1=CC=CC=C1)N1C[C@@H](N(CC1)C(C1=C(C(=CC=C1)C)C)=O)CCCC | C24H32N2O
